US06664256B1
(2) Preparation of 4-(4-chlorophenyl)-5-[4-(methylthio)phenyl]pentane-2,5-dione
Sodium cyanide (90 mg, 1.87 mmol) was added to a solution of 4-(methylthio)benzaldehyde (300 mg, 1.97 mmol) in N,N-dimethylformamide (2 ml). While stirring the resulting mixture at 30-40° C., a solution of 4-(4-chlorophenyl)-3-buten-2-one (370 mg, 1.97 mmol) in N,N-dimethylformamide (3 ml) was dropped. The thus-obtained mixture was then stirred at the same temperature for 90 minutes. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed successively with water and brine, and was then dried over anhydrous sodium sulfate. The solvent was distilled off and the thus-obtained brown oil (762 mg) was separated and purified by preparative thin-layer chromatography on silica gel [developing solvent: hexane/diethyl ether (2/1)], whereby the title compound was obtained as a pale yellow oil (317 mg, 48.3%).

reactant | Sodium cyanide | 1.87 mmol, 90 mg | [C-]#N.[Na+]
reactant | 4-(methylthio)benzaldehyde | 1.97 mmol, 300 mg | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 4-(4-chlorophenyl)-3-buten-2-one | 1.97 mmol, 370 mg | ClC1=CC=C(C=C1)C=CC(C)=O | C10H9ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-5-[4-(methylthio)phenyl]pentane-2,5-dione | 317 mg, 48.3% | ClC1=CC=C(C=C1)C(CC(C)=O)C(=O)C1=CC=C(C=C1)SC | C18H17ClO2S
